US05962450
A suspension of 14.1 g (0.0484 mol) of 7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid in 150 ml of dimethylformamide was treated portionwise with 8.24 g (0.0508 mol). of carbonyidiimidazole while gassing with argon. After completion of the CO2 evolution the mixture was stirred at 65° for 3 hrs. After cooling to 0-5° the white suspension obtained was treated with 8.28 g (0.0532 mol) of L-serine methyl ester hydrochloride and with 7.452 ml (0.0532 mol) of triethylamine and stirred at room temperature for 21 hrs. The white suspension was suction filtered and the filtrate was completely freed from the solvents. The orange oily residue was partitioned between ethyl acetate and water, extracted, chromatographed over silica gel with ethyl acetate/ethanol 9:1 as the eluent and recrystallized from hot ethyl acetate; the mother liquor was then digested with diethyl ether. There were obtained a total of 14.0 g (74%) of methyl (S)-2-(7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-3-ylcarbonylamino)-3-hydroxy-propionate as white crystals; m.p. 178-180°. [α]D20 =+1.2° (CH2Cl2, c=1%).

reactant | 7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 0.0484 mol, 14.1 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)O)C)=O | C13H10ClN3O3
reactant | carbonyidiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | L-serine methyl ester hydrochloride | 0.0532 mol, 8.28 g | Cl.COC([C@@H](N)CO)=O
reactant | triethylamine | 0.0532 mol, 7.452 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | methyl (S)-2-(7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-3-ylcarbonylamino)-3-hydroxy-propionate | 14.0 g, 74% | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)N[C@H](C(=O)OC)CO)C)=O | C17H17ClN4O5
